
* ======================================  SINGLE ENDED =======================================
*
.SUBCKT PAT4006 P1 P2 Sp1 Sp2
* Single ended audio transformer, 2000 to 5 ohms, 3db 0.403 to 623000 hz
*   
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 P2 405.983066161889
LSA 2 Sp2 1.007059162172
KALL LP1 LSA 0.999998706257522
RP1 P1 1 56
RS Sp1 2 0.1
.ENDS PAT4006
.SUBCKT 5KSE P1 P2 Sp1 Sp2
* Single ended audio transformer, 5000 to 8 ohms, 3db 10 to 40000 hz
*   
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 P2 40.2243110212277
LSA 2 Sp2 0.0644416375142296
KALL LP1 LSA 0.999499624718507
RP1 P1 1 56
RS Sp1 2 0.1
.ENDS 5KSE
.SUBCKT 2A3Amp P1 P2 Sp1 Sp2
* Single ended audio transformer, 3000 to 8 ohms, 3db 10 to 50000 hz
*   
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 P2 24.5426714414731
LSA 2 Sp2 0.0642857372897239
KALL LP1 LSA 0.999599759855901
RP1 P1 1 84.74
RS Sp1 2 0.08
.ENDS 2A3Amp
*
* ======================================  SINGLE ENDED ULTRA LINEAR =======================================
*
.SUBCKT Ham1627SE P Sg B Sp1 Sp2
* Hammond 1627SE, Single Ended transformer, with Ultralinear taps at 40%, 2500 to 8 ohms, 3db 10 to 40000 hz
*  
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg 7.37785147718468
LS1 2 B 3.27904510097097
LSA 5 Sp2 0.0644416375142296
KALL LP1 LS1 LSA 0.999341699075543
RP1 P 1 56
RP2 Sg 2 20
RS Sp1 5 0.1
.ENDS Ham1627SE
.SUBCKT Ham1628SE P Sg B Sp1 Sp2
* Hammond 1628SE, Single Ended transformer, with Ultralinear taps at 40%, 5000 to 8 ohms, 3db 10 to 40000 hz
*  
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg 14.5380334232102
LS1 2 B 6.46134818809342
LSA 5 Sp2 0.0644416375142296
KALL LP1 LS1 LSA 0.999341699075543
RP1 P 1 56
RP2 Sg 2 20
RS Sp1 5 0.1
.ENDS Ham1628SE
******************************************************
** Modified Ham1629A KJW
*  To model a ttansformer with customeised parameters
*  closer to measured values of winding resistance from PYE PJ105 Radiogram
.SUBCKT PYE_PJ105 P Sg B Sp1 Sp2
LP1 1 Sg 34H
LS1 2 B  33mH
LSA 5 Sp2 0.6
KP1 LP1 LS1 0.999341699075543
KP2 LS1 LSA 0.999341699075543
KP3 LP1 LSA 0.999341699075543
RP1 P 1 492
RP2 Sg 2 6
RS Sp1 5 0.1
.ENDS PYE_PJ105
****************************************************
.SUBCKT Ham1629SE P Sg B Sp1 Sp2
* Hammond 1629SE, Single Ended transformer, with Ultralinear taps at 40%, 6500 to 8 ohms, 3db 10 to 40000 hz
*  
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg 18.8341425908255
LS1 2 B 8.37073004036689
LSA 5 Sp2 0.0644416375142296
*KALL LP1 LS1 LSA 0.999341699075543
KP1 LP1 LS1 0.999341699075543
KP2 LS1 LSA 0.999341699075543
KP3 LP1 LSA 0.999341699075543
RP1 P 1 56
RP2 Sg 2 20
RS Sp1 5 0.1
.ENDS Ham1629SE
.SUBCKT Ham1640SE P Sg B Sp1 Sp2
* Hammond 1640SE, Single Ended transformer, with Ultralinear taps at 40%, 1250 to 8 ohms, 3db 10 to 40000 hz
*  
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg 3.79776050417193
LS1 2 B 1.68789355740975
LSA 5 Sp2 0.0644416375142296
KALL LP1 LS1 LSA 0.999341699075543
RP1 P 1 56
RP2 Sg 2 20
RS Sp1 5 0.1
.ENDS Ham1640SE
.SUBCKT MagRH-PF P Sg B Sp1 Sp2
* Magnequest, Single Ended transformer, with Ultralinear taps at 43%, 5000 to 16 ohms, 3db 10 to 30000 hz
*  
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg 13.4012040244595
LS1 2 B 7.62660087449235
LSA 5 Sp2 0.132054569898684
KALL LP1 LS1 LSA 0.99911615725266
RP1 P 1 105
RP2 Sg 2 80
RS Sp1 5 0.6
.ENDS MagRH-PF
*
* ======================================  PUSH PULL OUTPUT TRANSFORMER =======================================
*
.SUBCKT 248002501 P1 B P2 Sp1 Sp2
* Push Pull transformer, 8448 to 8 ohms, 3db 15 to 60000 hz, Model 24-80025-01
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 B 11.7718695031138
LP2 B 2 11.7718695031138
LSA 3 Sp2 0.0461433947632755
KALL LP1 LP2 LSA 0.999332925685523
RP1 P1 1 215
RP2 P2 2 215
RS Sp1 3 0.7
.ENDS 248002501
.SUBCKT Generic10K P1 B P2 Sp1 Sp2
* Push Pull transformer, 10000 to 8 ohms, 3db 15 to 60000 hz
*   
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 B 13.8297588327863
LP2 B 2 13.8297588327863
LSA 3 Sp2 0.0461433947632755
KALL LP1 LP2 LSA 0.999332925685523
RP1 P1 1 215
RP2 P2 2 215
RS Sp1 3 0.7
.ENDS Generic10K
.SUBCKT Generic14K P1 B P2 Sp1 Sp2
* Push Pull transformer, 14000 to 8 ohms, 3db 15 to 60000 hz
*   
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 B 19.1335973113237
LP2 B 2 19.1335973113237
LSA 3 Sp2 0.0461433947632755
KALL LP1 LP2 LSA 0.999332925685523
RP1 P1 1 215
RP2 P2 2 215
RS Sp1 3 0.7
.ENDS Generic14K
.SUBCKT Generic12K P1 B P2 Sp1 Sp2
* Push Pull transformer, 12000 to 8 ohms, 3db 15 to 60000 hz
*   
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 B 16.481678072055
LP2 B 2 16.481678072055
LSA 3 Sp2 0.0461433947632755
KALL LP1 LP2 LSA 0.999332925685523
RP1 P1 1 215
RP2 P2 2 215
RS Sp1 3 0.7
.ENDS Generic12K
.SUBCKT Generic16K P1 B P2 Sp1 Sp2
* Push Pull transformer, 16000 to 8 ohms, 3db 15 to 60000 hz
*   
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 B 21.7855165505924
LP2 B 2 21.7855165505924
LSA 3 Sp2 0.0461433947632755
KALL LP1 LP2 LSA 0.999332925685523
RP1 P1 1 215
RP2 P2 2 215
RS Sp1 3 0.7
.ENDS Generic16K
.SUBCKT Generic8K P1 B P2 Sp1 Sp2
* Push Pull transformer, 8000 to 8 ohms, 3db 15 to 60000 hz
*   
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 B 11.1778395935176
LP2 B 2 11.1778395935176
LSA 3 Sp2 0.0461433947632755
KALL LP1 LP2 LSA 0.999332925685523
RP1 P1 1 215
RP2 P2 2 215
RS Sp1 3 0.7
.ENDS Generic8K
.SUBCKT Generic9K P1 B P2 Sp1 Sp2
* Push Pull transformer, 9000 to 8 ohms, 3db 15 to 60000 hz
*   
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 B 12.503799213152
LP2 B 2 12.503799213152
LSA 3 Sp2 0.0461433947632755
KALL LP1 LP2 LSA 0.999332925685523
RP1 P1 1 215
RP2 P2 2 215
RS Sp1 3 0.7
.ENDS Generic9K
.SUBCKT RCAAmp P1 B P2 Sp1 Sp2
* Push Pull transformer, 5000 to 8 ohms, 3db 10 to 50000 hz
*   
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 B 10.1838791746097
LP2 B 2 10.1838791746097
LSA 3 Sp2 0.0676273226438927
KALL LP1 LP2 LSA 0.999466405802858
RP1 P1 1 60
RP2 P2 2 60
RS Sp1 3 0.5
.ENDS RCAAmp
.SUBCKT StanA8056 P1 B P2 Sp1 Sp2
* Stancor A8056. Push Pull transformer, 6600 to 8 ohms, 3db 10 to 50000 hz
*  
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 B 13.3663414166753
LP2 B 2 13.3663414166753
LSA 3 Sp2 0.0676273226438927
KALL LP1 LP2 LSA 0.999466405802858
RP1 P1 1 60
RP2 P2 2 60
RS Sp1 3 0.5
.ENDS StanA8056
.SUBCKT Pli2100 P1 B P2 Sp1 Sp2
* Plitron 2100. Push Pull transformer, 1885.682 to 5 ohms, 3db 0.304 to 217000 hz
*  
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 B 130.208586288772
LP2 B 2 130.208586288772
LSA 3 Sp2 1.35595633267193
KALL LP1 LP2 LSA 0.999996264196116
RP1 P1 1 52
RP2 P2 2 52
RS Sp1 3 0.18
.ENDS Pli2100
.SUBCKT Pli1080 P1 B P2 Sp1 Sp2
* Plitron 1080. Push Pull transformer, 1238.738 to 5 ohms, 3db 0.278 to 251000 hz
* 
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 B 91.3521167817697
LP2 B 2 91.3521167817697
LSA 3 Sp2 1.47704783592476
KALL LP1 LP2 LSA 0.999997046472747
RP1 P1 1 18.9
RP2 P2 2 18.9
RS Sp1 3 0.16
.ENDS Pli1080
.SUBCKT Pli3070 P1 B P2 Sp1 Sp2
* Plitron 3070. Push Pull transformer, 2756.552 to 5 ohms, 3db 0.4 to 187000 hz
*  
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 B 145.73349289825
LP2 B 2 145.73349289825
LSA 3 Sp2 1.0281387331417
KALL LP1 LP2 LSA 0.999994295870353
RP1 P1 1 86.8
RP2 P2 2 86.8
RS Sp1 3 0.168
.ENDS Pli3070
.SUBCKT Pli6040 P1 B P2 Sp1 Sp2
* Plitron 6040. Push Pull transformer, 5879.0205 to 5 ohms, 3db 0.847 to 99000 hz
* 
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 B 139.684995098619
LP2 B 2 139.684995098619
LSA 3 Sp2 0.484601046653538
KALL LP1 LP2 LSA 0.999977184708036
RP1 P1 1 34.05
RP2 P2 2 34.05
RS Sp1 3 0.158
.ENDS Pli6040
.SUBCKT Pli8020 P1 B P2 Sp1 Sp2
* Plitron 8020. Push Pull transformer, 8000 to 5 ohms, 3db 1.793 to 132000 hz
* 
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 B 90.3766776554594
LP2 B 2 90.3766776554594
LSA 3 Sp2 0.229053960949653
KALL LP1 LP2 LSA 0.999963776575027
RP1 P1 1 72.7
RP2 P2 2 72.7
RS Sp1 3 0.161
.ENDS Pli8020
.SUBCKT Ham125E26 P1 B P2 Sp1 Sp2
* Hammond 125E, Push Pull transformer, 2100 to 4 ohms, 3db 93 to 45000 hz, with speaker on terminals 2 and 6
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 B 0.482241916232894
LP2 B 2 0.482241916232894
LSA 3 Sp2 0.00401334573934413
KALL LP1 LP2 LSA 0.994460911032774
RP1 P1 1 79.5
RP2 P2 2 79.5
RS Sp1 3 0.7
.ENDS Ham125E26
.SUBCKT 248006301 P1 B P2 Sp1 Sp2
* Push Pull transformer, 8000 to 8 ohms, 3db 10 to 27500 hz, model  24-80063-01
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 B 17.2063479655356
LP2 B 2 17.2063479655356
LSA 3 Sp2 0.0692072248267036
KALL LP1 LP2 LSA 0.999029440337382
RP1 P1 1 326
RP2 P2 2 326
RS Sp1 3 0.7
.ENDS 248006301
.SUBCKT Generic4K P1 B P2 Sp1 Sp2
* Push Pull transformer, 4000 to 8 ohms, 3db 20 to 80000 hz
*   
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 B 4.17677280184821
LP2 B 2 4.17677280184821
LSA 3 Sp2 0.0346075460724566
KALL LP1 LP2 LSA 0.999332925685523
RP1 P1 1 100
RP2 P2 2 100
RS Sp1 3 0.7
.ENDS Generic4K
*
* ======================================  PUSH PULL ULTRA LINEAR =======================================
*
.SUBCKT Ham1608 P1 Sg1 B Sg2 P2 Sp1 Sp2
* Hammond 1608. Push Pull transformer, with Ultralinear taps at 40%, 8000 to 8 ohms, 3db 15 to 60000 hz
*  
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 3.86172479622309
LS1 2 B 1.71632213165471
LS2 3 Sg2 1.71632213165471
LP2 4 P2 3.86172479622309
LSA 5 Sp2 0.042961091676153
KALL LP1 LS1 LS2 LP2 LSA 0.999205918381856
RP1 P1 1 30
RP2 Sg1 2 15
RP3 B 3 15
RP4 Sg2 4 30
RS Sp1 5 0.1
.ENDS Ham1608
.SUBCKT Ham1609 P1 Sg1 B Sg2 P2 Sp1 Sp2
* Hammond 1609. Push Pull transformer, with Ultralinear taps at 40%, 10000 to 8 ohms, 3db 15 to 60000 hz
* 
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 4.81641572235983
LS1 2 B 2.1406292099377
LS2 3 Sg2 2.1406292099377
LP2 4 P2 4.81641572235983
LSA 5 Sp2 0.042961091676153
KALL LP1 LS1 LS2 LP2 LSA 0.999205918381856
RP1 P1 1 30
RP2 Sg1 2 15
RP3 B 3 15
RP4 Sg2 4 30
RS Sp1 5 0.1
.ENDS Ham1609
.SUBCKT Ham1615 P1 Sg1 B Sg2 P2 Sp1 Sp2
* Hammond 1615. Push Pull transformer, with Ultralinear taps at 40%, 5000 to 8 ohms, 3db 15 to 60000 hz
* 
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 2.42968840701799
LS1 2 B 1.07986151423022
LS2 3 Sg2 1.07986151423022
LP2 4 P2 2.42968840701799
LSA 5 Sp2 0.042961091676153
KALL LP1 LS1 LS2 LP2 LSA 0.999205918381856
RP1 P1 1 30
RP2 Sg1 2 15
RP3 B 3 15
RP4 Sg2 4 30
RS Sp1 5 0.1
.ENDS Ham1615
.SUBCKT Ham1620 P1 Sg1 B Sg2 P2 Sp1 Sp2
* Hammond 1620. Push Pull transformer, with Ultralinear taps at 40%, 6600 to 16 ohms, 3db 15 to 60000 hz
*  
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 3.19344114792738
LS1 2 B 1.41930717685661
LS2 3 Sg2 1.41930717685661
LP2 4 P2 3.19344114792738
LSA 5 Sp2 0.0853917995044524
KALL LP1 LS1 LS2 LP2 LSA 0.999205918381856
RP1 P1 1 30
RP2 Sg1 2 15
RP3 B 3 15
RP4 Sg2 4 30
RS Sp1 5 0.1
.ENDS Ham1620
.SUBCKT Ham1650F P1 Sg1 B Sg2 P2 Sp1 Sp2
* Hammond 1650F, Push Pull transformer, with Ultralinear taps at 40%, 7600 to 16 ohms, 3db 15 to 60000 hz
* 
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 3.67078661099574
LS1 2 B 1.63146071599811
LS2 3 Sg2 1.63146071599811
LP2 4 P2 3.67078661099574
LSA 5 Sp2 0.0853917995044523
KALL LP1 LS1 LS2 LP2 LSA 0.999205918381856
RP1 P1 1 30
RP2 Sg1 2 15
RP3 B 3 15
RP4 Sg2 4 30
RS Sp1 5 0.1
.ENDS Ham1650F
.SUBCKT Ham1645 P1 Sg1 B Sg2 P2 Sp1 Sp2
* Hammond 1645. Push Pull transformer, with Ultralinear taps at 40%, 5000 to 16 ohms, 3db 15 to 60000 hz
* 
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 2.42968840701799
LS1 2 B 1.07986151423022
LS2 3 Sg2 1.07986151423022
LP2 4 P2 2.42968840701799
LSA 5 Sp2 0.0853917995044523
KALL LP1 LS1 LS2 LP2 LSA 0.999205918381856
RP1 P1 1 30
RP2 Sg1 2 15
RP3 B 3 15
RP4 Sg2 4 30
RS Sp1 5 0.1
.ENDS Ham1645
.SUBCKT Ham1650H P1 Sg1 B Sg2 P2 Sp1 Sp2
* Hammond 1650H, Push Pull transformer, with Ultralinear taps at 40%, 6600 to 16 ohms, 3db 15 to 60000 hz
*  
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 3.19344114792738
LS1 2 B 1.41930717685661
LS2 3 Sg2 1.41930717685661
LP2 4 P2 3.19344114792738
LSA 5 Sp2 0.0853917995044524
KALL LP1 LS1 LS2 LP2 LSA 0.999205918381856
RP1 P1 1 30
RP2 Sg1 2 15
RP3 B 3 15
RP4 Sg2 4 30
RS Sp1 5 0.1
.ENDS Ham1650H
.SUBCKT Ham1650K P1 Sg1 B Sg2 P2 Sp1 Sp2
* Hammond 1650K, Push Pull transformer, with Ultralinear taps at 40%,3400 to 16 ohms, 3db 15 to 60000 hz
* 
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 1.6659356661086
LS1 2 B 0.740415851603823
LS2 3 Sg2 0.740415851603823
LP2 4 P2 1.6659356661086
LSA 5 Sp2 0.0853917995044523
KALL LP1 LS1 LS2 LP2 LSA 0.999205918381856
RP1 P1 1 30
RP2 Sg1 2 15
RP3 B 3 15
RP4 Sg2 4 30
RS Sp1 5 0.1
.ENDS Ham1650K
.SUBCKT Ham1650N P1 Sg1 B Sg2 P2 Sp1 Sp2
* Hammond 1650N, Push Pull transformer, with Ultralinear taps at 40%, 4300 to 16 ohms, 3db 15 to 60000 hz
*  
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 2.09554658287013
LS1 2 B 0.93135403683117
LS2 3 Sg2 0.93135403683117
LP2 4 P2 2.09554658287013
LSA 5 Sp2 0.0853917995044524
KALL LP1 LS1 LS2 LP2 LSA 0.999205918381856
RP1 P1 1 30
RP2 Sg1 2 15
RP3 B 3 15
RP4 Sg2 4 30
RS Sp1 5 0.1
.ENDS Ham1650N
.SUBCKT Ham1650P P1 Sg1 B Sg2 P2 Sp1 Sp2
* Hammond 1650P, Push Pull transformer, with Ultralinear taps at 40%, 6600 to 16 ohms, 3db 15 to 60000 hz
*  
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 3.19344114792738
LS1 2 B 1.41930717685661
LS2 3 Sg2 1.41930717685661
LP2 4 P2 3.19344114792738
LSA 5 Sp2 0.0853917995044524
KALL LP1 LS1 LS2 LP2 LSA 0.999205918381856
RP1 P1 1 30
RP2 Sg1 2 15
RP3 B 3 15
RP4 Sg2 4 30
RS Sp1 5 0.1
.ENDS Ham1650P
.SUBCKT Ham1650R P1 Sg1 B Sg2 P2 Sp1 Sp2
* Hammond 1650R, Push Pull transformer, with Ultralinear taps at 40%, 5000 to 16 ohms, 3db 15 to 60000 hz
*  
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 2.42968840701799
LS1 2 B 1.07986151423022
LS2 3 Sg2 1.07986151423022
LP2 4 P2 2.42968840701799
LSA 5 Sp2 0.0853917995044523
KALL LP1 LS1 LS2 LP2 LSA 0.999205918381856
RP1 P1 1 30
RP2 Sg1 2 15
RP3 B 3 15
RP4 Sg2 4 30
RS Sp1 5 0.1
.ENDS Ham1650R
.SUBCKT Ham1650T P1 Sg1 B Sg2 P2 Sp1 Sp2
* Hammond 1650T, Push Pull transformer, with Ultralinear taps at 40%, 1900 to 16 ohms, 3db 15 to 60000 hz
*  
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 0.949917471506051
LS1 2 B 0.422185542891578
LS2 3 Sg2 0.422185542891578
LP2 4 P2 0.949917471506051
LSA 5 Sp2 0.0853917995044524
KALL LP1 LS1 LS2 LP2 LSA 0.999205918381856
RP1 P1 1 30
RP2 Sg1 2 15
RP3 B 3 15
RP4 Sg2 4 30
RS Sp1 5 0.1
.ENDS Ham1650T
.SUBCKT Ham1650W P1 Sg1 B Sg2 P2 Sp1 Sp2
* Hammond 1650W, Push Pull transformer, with Ultralinear taps at 40%, 1900 to 16 ohms, 3db 15 to 60000 hz
* 
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 0.949917471506051
LS1 2 B 0.422185542891578
LS2 3 Sg2 0.422185542891578
LP2 4 P2 0.949917471506051
LSA 5 Sp2 0.0853917995044524
KALL LP1 LS1 LS2 LP2 LSA 0.999205918381856
RP1 P1 1 30
RP2 Sg1 2 15
RP3 B 3 15
RP4 Sg2 4 30
RS Sp1 5 0.1
.ENDS Ham1650W
.SUBCKT Eico32007 P1 Sg1 B Sg2 P2 Sp1 Sp2
* Eico 32007. Push Pull transformer, with Ultralinear taps at 46%, 4100 to 16 ohms, 3db 3.5 to 120000 hz
*
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 7.01095727012743
LS1 2 B 5.08751220287711
LS2 3 Sg2 5.08751220287711
LP2 4 P2 7.01095727012743
LSA 5 Sp2 0.36604569246726
KALL LP1 LS1 LS2 LP2 LSA 0.999906780103344
RP1 P1 1 39
RP2 Sg1 2 26
RP3 B 3 26
RP4 Sg2 4 39
RS Sp1 5 0.1
.ENDS Eico32007
.SUBCKT FT3273671A P1 Sg1 B Sg2 P2 Sp1 Sp2
* HK FT3273671A, Push Pull transformer, with Ultralinear taps at 34%, 3500 to 16 ohms, 3db 3.5 to 108000 hz
* 
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 8.96281572265177
LS1 2 B 2.37856174825194
LS2 3 Sg2 2.37856174825194
LP2 4 P2 8.96281572265177
LSA 5 Sp2 0.366044506173472
KALL LP1 LS1 LS2 LP2 LSA 0.999898370322571
RP1 P1 1 35
RP2 Sg1 2 25
RP3 B 3 25
RP4 Sg2 4 35
RS Sp1 5 0.1
.ENDS FT3273671A
.SUBCKT Peer16277 P1 Sg1 B Sg2 P2 Sp1 Sp2
* Peerless 16277. Push Pull transformer, with Ultralinear taps at 51%, 10300 to 4 ohms, 3db 3.5 to 54600 hz
* 
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 14.2198213122333
LS1 2 B 15.4043128834314
LS2 3 Sg2 15.4043128834314
LP2 4 P2 14.2198213122333
LSA 5 Sp2 0.0932133482132871
KALL LP1 LS1 LS2 LP2 LSA 0.999794859798938
RP1 P1 1 35
RP2 Sg1 2 25
RP3 B 3 25
RP4 Sg2 4 35
RS Sp1 5 0.1
.ENDS Peer16277
.SUBCKT Peer16309 P1 Sg1 B Sg2 P2 Sp1 Sp2
* Peerless 16309. Push Pull transformer, with Ultralinear taps at 50%, 12000 to 16 ohms, 3db 3.5 to 69000 hz
* 
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 17.9040228766956
LS1 2 B 17.9040228766956
LS2 3 Sg2 17.9040228766956
LP2 4 P2 17.9040228766956
LSA 5 Sp2 0.366037801034665
KALL LP1 LS1 LS2 LP2 LSA 0.999837663373219
RP1 P1 1 200
RP2 Sg1 2 100
RP3 B 3 100
RP4 Sg2 4 200
RS Sp1 5 0.1
.ENDS Peer16309
.SUBCKT A470 P1 Sg1 B Sg2 P2 Sp1 Sp2
* Dynaco A470. Push Pull transformer, with Ultralinear taps at 33%, 5600 to 16 ohms, 3db 7 to 56000 hz
* 
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 7.29664888730406
LS1 2 B 1.77011598090312
LS2 3 Sg2 1.77011598090312
LP2 4 P2 7.29664888730406
LSA 5 Sp2 0.18300530603261
KALL LP1 LS1 LS2 LP2 LSA 0.999608931954948
RP1 P1 1 35
RP2 Sg1 2 25
RP3 B 3 25
RP4 Sg2 4 35
RS Sp1 5 0.1
.ENDS A470
.SUBCKT 8013 P1 Sg1 B Sg2 P2 Sp1 Sp2
* Leak 8013. Push Pull transformer, with Ultralinear taps at 50%, 5200 to 16 ohms, 3db 5 to 100000 hz
*  
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 5.2419038297924
LS1 2 B 5.2419038297924
LS2 3 Sg2 5.2419038297924
LP2 4 P2 5.2419038297924
LSA 5 Sp2 0.256226646405033
KALL LP1 LS1 LS2 LP2 LSA 0.999839982718369
RP1 P1 1 25
RP2 Sg1 2 10
RP3 B 3 10
RP4 Sg2 4 25
RS Sp1 5 0.1
.ENDS 8013
.SUBCKT Gen30W P1 Sg1 B Sg2 P2 Sp1 Sp2
* Generic 30W Push Pull transformer, with Ultralinear taps at 43%, 6000 to 8 ohms, 3db 5 to 200000 hz
* 
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 7.9802908837027
LS1 2 B 4.54156905015891
LS2 3 Sg2 4.54156905015891
LP2 4 P2 7.9802908837027
LSA 5 Sp2 0.128912281016838
KALL LP1 LS1 LS2 LP2 LSA 0.999920308062117
RP1 P1 1 66.6666666666667
RP2 Sg1 2 20
RP3 B 3 20
RP4 Sg2 4 66.6666666666667
RS Sp1 5 0.1
.ENDS Gen30W
.SUBCKT CXPP25 P1 Sg1 B Sg2 P2 Sp1 Sp2
* Edcor CXPP25. Push Pull transformer, with Ultralinear taps at 40%, 12000 to 6 ohms, 3db 20 to 20000 hz
*  
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 4.44170633772497
LS1 2 B 1.97409170565554
LS2 3 Sg2 1.97409170565554
LP2 4 P2 4.44170633772497
LSA 5 Sp2 0.0242468576926925
KALL LP1 LS1 LS2 LP2 LSA 0.996818493748621
RP1 P1 1 125
RP2 Sg1 2 83
RP3 B 3 83
RP4 Sg2 4 125
RS Sp1 5 0.1
.ENDS CXPP25
.SUBCKT 6550Bal P1 Sg1 B Sg2 P2 Sp1 Sp2
* Push Pull transformer, with Ultralinear taps at 40%, 6800 to 8 ohms, 3db 5 to 100000 hz
*   
*  model generated by TransformerModels.xls yyyy Jan 22
*  
LP1 1 Sg1 10.1694923635289
LS1 2 B 4.51977438379064
LS2 3 Sg2 4.51977438379064
LP2 4 P2 10.1694923635289
LSA 5 Sp2 0.12890905812924
KALL LP1 LS1 LS2 LP2 LSA 0.999841252614865
RP1 P1 1 100
RP2 Sg1 2 50
RP3 B 3 50
RP4 Sg2 4 100
RS Sp1 5 0.1
.ENDS 6550Bal
*
* ======================================  MAINS TRANSFORMER FOR TUBE AMPS =======================================
*
* Subcircuit for Parmeko mains transformer model 6000/71
*
* Primary 230/240V AC
*
* Secondary 318V AC @ 300mA DC
*           6.3V AC @ 5A
*
* D.Munro - 10/4/97
*
* 10/04/97  Initial model
*
* 02/05/97  Model changed to take out leaked inductance/capacitance etc.
*           Also "leak" resistors put in to stop error messages when windings
*           were left unconnected.
*
*
* Pin 1   Mains neutral
*     2   Mains 230V tap
*     3   Mains 240V tap
*
*     4,5 318V AC
*     6,7 6.3V AC
*
.SUBCKT PARMEKO 1 2 3 4 5 6 7
*
* Primary
*
Rpri1   1       10      5.7
Lpri1   10      2       5.1H
Rpri2   2       11      0.5
Lpri2   11      3       10mH
Rleak1  0       1       1000MEG
Rleak2  0       2       1000MEG
Rleak3  0       3       1000MEG
*
* HV Secondary
*
Rsec1   4       20      18
Lsec1   20      21      4.8H
Rsec2   21      22      7.5
Lsec2   22      5       1.17H
Rleak4  0       4       1000MEG
Rleak5  0       5       1000MEG
*
* Heater secondary
*
Rsec3   6       30      0.025
Lsec3   30      31      1.09mH
Rsec4   31      32      0.025
Lsec4   32      7       1.09mH
Rleak6  0       6       1000MEG
Rleak7  0       7       1000MEG
*
* Coupling
*
K1      Lpri1 Lpri2 Lsec1 Lsec2 Lsec3 Lsec4 0.997
.ENDS PARMEKO